US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (0.2 mg, 0.7 mmol) and 3-bromopropylphenyl-ether (0.17 mL, 1.1 mmol) in 2 CH3CN/3 CHCl3 (15 mL) were reacted to give the desired product (255 mg, 64%). 1H NMR (400 MHz, CD3OD) δ 7.5 (m, 4H), 7.35 (m, 3H), 7.3-7.2 (m, 4H), 6.9 (m, 4H), 4.07 (m, 3H), 3.8-3.7 (m, 2H), 3.62 (m, 5H), 3.6-2.5 (m, 2H), 2.4-2.3 (m, 2H), 2.3-2.1 (m, 51).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.7 mmol, 0.2 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 3-bromopropylphenyl-ether | 1.1 mmol, 0.17 mL | BrCCCOC1=CC=CC=C1 | C9H11BrO
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide | 255 mg, 64% | [Br-].OC(C12CC[N+](CC1)(C2)CCCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H32NO2.BrH/c30-28(24-11-4-1-5-12-24,25-13-6-2-7-14-25)27-17-20-29(23-27,21-18-27)19-10-22-31-26-15-8-3-9-16-26;/h1-9,11-16,30H,10,17-23H2;1H/q+1;/p-1
